US06908940B2
(3S,4S)-1-(2-hydroxy-4-fluorophenyl)-4-tert-butyldimethylsilyloxy-3-pentanol (0.94 g) was treated with benzyl bromide (0.48 ml) and potassium carbonate (0.53 g) in DMF (5 ml) at room temperature for 2 hr. The mixture was diluted with EtOAc and washed with water twice, dried and evaporated. The residual oil (1.43 g) was chromatographed over silica gel (30 g), eluting with a mixture of hexane and EtOAc (40:1) to give a second crop of colorless oil of (3S,4S)-1-(2-benzyloxy-4-fluorophenyl)-4-tert-butyldimethylsilyloxy-3-pentanol (0.79 g, total yield 81.4%).

reactant | (3S,4S)-1-(2-hydroxy-4-fluorophenyl)-4-tert-butyldimethylsilyloxy-3-pentanol | 0.94 g | OC1=C(C=CC(=C1)F)CC[C@@H]([C@H](C)O[Si](C)(C)C(C)(C)C)O | C17H29FO3Si
reactant | benzyl bromide | 0.48 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.53 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3S,4S)-1-(2-benzyloxy-4-fluorophenyl)-4-tert-butyldimethylsilyloxy-3-pentanol | 0.79 g, yield 81.4% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)CC[C@@H]([C@H](C)O[Si](C)(C)C(C)(C)C)O | C24H35FO3Si
